US07754737B2
To a solution of (3R)-1-(tert-butoxycarbonyl)-3-((3-fluorophenoxy)benzoyl)piperidine (0.95 g, 2.37 mmol) in THF (3 mL) at −20° C. was added 1.45 M 4-methoxybutyl magnesium chloride in THF (3.3 mL, 4.76 mmol) dropwise. The resulting solution was warmed to rt slowly, and the completion of reaction was confirmed by LC-MS (˜20 min). The reaction was quenched with sat'd aq NH4Cl (4 mL) and extracted with Et2O (4×5 mL). The combined organic layers were washed with water and brine, and the solvent was removed in vacuo to give a crude product which was purified by flash column chromatography to afford (R)-tert-butyl 3-((S)-1-(2-(3-fluorophenoxy)phenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (0.50 g, 43%).

reactant | (3R)-1-(tert-butoxycarbonyl)-3-((3-fluorophenoxy)benzoyl)piperidine | 2.37 mmol, 0.95 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)C(C1=C(C=CC=C1)OC1=CC(=CC=C1)F)=O | C23H26FNO4
reactant | 4-methoxybutyl magnesium chloride | 1.45 M | COCCCC[Mg]Cl
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 4.76 mmol, 3.3 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((S)-1-(2-(3-fluorophenoxy)phenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 0.50 g, 43% | FC=1C=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=CC1 | C28H38FNO5
